US07709648B2
Step 3. Preparation of 5-(1-Methylthioethyl)-2-trifluoromethyl-nicotinic acid
To a dry 50 mL glass vial equipped with magnetic stirrer, and nitrogen inlet, was charged 0.5 g (0.00170 moles) of 5-(1-methylthioethyl)-2-trifluoromethylnicotinic acid ethyl ester, and 10 mL of tetrahydrofuran (THF). The solution was cooled to about 0° C. and 5.1 mL of 1N aqueous lithium hydroxide solution (0.00511 moles) was added slowly via syringe. The reaction was stirred at 0° C. for 1 hour, then overnight at ambient temperature. An aliquot was analyzed by thin layer chromatography (TLC) and high performance liquid chromatography (HPLC), which indicated that the reaction was essentially complete. The mixture was acidified to pH=2 with 1M aqueous hydrochloric acid, and extracted with 3 aliquots of 50 mL of ethyl acetate. The extract was dried over anhydrous magnesium sulfate (MgSO4), filtered, and concentrated under vacuum on a rotary evaporator to afford 0.410 g of the title compound as a tan solid. 1H NMR (CDCl3): δ 1.66 (d, 3H), 1.96 (s, 3H), 3.98 (q, 1H), 8.01 (bs, 1H), 8.30 (s, 1H), and 8.80 (s, 1H).

reactant | 5-(1-methylthioethyl)-2-trifluoromethylnicotinic acid ethyl ester | 0.00170 moles, 0.5 g | C(C)OC(C1=C(N=CC(=C1)C(C)SC)C(F)(F)F)=O | C12H14F3NO2S
reactant | lithium hydroxide | 0.00511 moles, 1N, 5.1 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-(1-Methylthioethyl)-2-trifluoromethyl-nicotinic acid | 0.410 g | CSC(C)C=1C=NC(=C(C(=O)O)C1)C(F)(F)F | C10H10F3NO2S
